US04567267
1-[[(2-benzothiazolyl)thio]phenylacetyl]-L-proline
5.7 g (0.02 m) 2-phenylthiazolo[2,3-b]benzothiazol-3(2H)-one mesoionic didehydro derivative, 2.2 g (0.02 m)-L-(-)-proline and 2.0 g (0.02 m) triethylamine are suspended in methylene chloride and the mixture is stirred at room temperature overnight. The reaction mixture is extracted with a dilute hydrochloric acid solution and dried over anhydrous magnesium sulfate. After the solvent is removed, the residue is extracted with hot cyclohexane. The solid obtained from the cyclohexane solution is recrystallized from acetonitrile. In order to remove all traces of acetonitrile, the solid is ground, stirred in water for 3 days, collected and then dried in an oven at 90° C. There is thereby obtained 3.0 g (37% yield) of the title compound, which has a melting point of 174°-5° C. (dec).

reactant | 2-phenylthiazolo[2,3-b]benzothiazol-3(2H)-one | 5.7 g | C1(=CC=CC=C1)C1C(N2C(SC3=C2C=CC=C3)S1)=O | C15H11NOS2
reactant | L-(-)-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[[(2-benzothiazolyl)thio]phenylacetyl]-L-proline | 3.0 g, 37% yield | S1C(=NC2=C1C=CC=C2)SC(C(=O)N2[C@H](C(=O)O)CCC2)C2=CC=CC=C2 | C20H18N2O3S2
